US08202858B2
N-[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-(1-ethanesulfonyl-piperidin-4-yl)-propionamide
A solution of ethanesulfonyl chloride (0.64 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-piperidin-4-yl-propionamide hydrochloride (Compound number 1108) (2.97 mg, 0.005 mmol) in dichloro-methane (0.05 ml) and triethylamine (0.0035 ml). The mixture was stirred at room temperature for 1 h then sol-vents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=613.4

reactant | ethanesulfonyl chloride | 0.005 mmol, 0.64 mg | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | N-[4-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-piperidin-4-yl-propionamide hydrochloride | 0.005 mmol, 2.97 mg | Cl.ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2=C(C=C(CNC(CCC3CCNCC3)=O)C=C2)C)C)C1
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloro-methane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | N-[4-(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-3-methyl-benzyl]-3-(1-ethanesulfonyl-piperidin-4-yl)-propionamide | ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2=C(C=C(CNC(CCC3CCN(CC3)S(=O)(=O)CC)=O)C=C2)C)C)C1 | C30H37ClN6O4S
